Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Penoscrotal infection/Infected penile prosthesis

 
Major Surgical or Invasive Procedure:
Procedure ___:  Removal AND replacement of Ambicor penile
prosthesis, scrotal exploration and antibiotic irrigation.

Procedure ___:  Removal of penile prosthesis, Ambicor

 
History of Present Illness:
Mr. ___ presents for removal of infected penile prosthesis 
and replacement of new penile prosthesis. 
 
Past Medical History:
PAST MEDICAL HISTORY/PSH:  
Essential thrombocytosis. 
Exercise-induced asthma 
Radiation therapy for acne in his youth resulting in 
hypothyroidism.
Hydrocele repair by Dr. ___ in early ___.  
Cholecystectomy.
Inguinal hernia repair.

 
Social History:
___
Family History:
His father had prostate cancer and lived well into his ___.

 
Physical Exam:
WDWN male, nad, avss
abdomen soft, appropiately ttp at suprapubic area
phallus and scrotum markedly swollen but no evidence of hematoma 
or spreading infection. Incision line is clean, dry, intact at 
hemiscrotum
foley has been removed, drain has been removed
lower extremities w/out edema, pitting, pain
right arm with PICC
 
Pertinent Results:
___ 09:20AM BLOOD WBC-6.7 RBC-2.52* Hgb-9.9* Hct-27.3* 
MCV-108* MCH-39.4* MCHC-36.3* RDW-20.0* Plt ___
___ 09:25AM BLOOD WBC-7.3 RBC-2.47* Hgb-9.2* Hct-27.2* 
MCV-110* MCH-37.1* MCHC-33.7 RDW-20.8* Plt ___
___ 08:05AM BLOOD WBC-5.9 RBC-2.23*# Hgb-8.4* Hct-24.3* 
MCV-109*# MCH-37.5* MCHC-34.5 RDW-20.9* Plt ___
___ 10:00AM BLOOD WBC-5.8 RBC-1.73* Hgb-6.9* Hct-20.2* 
MCV-117* MCH-40.2* MCHC-34.5 RDW-15.1 Plt ___
___ 08:30AM BLOOD WBC-5.9 RBC-1.84* Hgb-7.3* Hct-21.6* 
MCV-118* MCH-40.0* MCHC-33.9 RDW-15.2 Plt ___
___ 07:15AM BLOOD WBC-5.8 RBC-2.01* Hgb-8.4* Hct-23.5* 
MCV-117* MCH-42.1* MCHC-35.8* RDW-15.2 Plt ___
___ 07:20AM BLOOD WBC-4.6 RBC-2.12* Hgb-8.5* Hct-25.1* 
MCV-118* MCH-40.0* MCHC-33.8 RDW-15.5 Plt ___
___ 11:47AM BLOOD WBC-5.5 RBC-2.29* Hgb-9.4* Hct-27.1* 
MCV-118* MCH-41.1* MCHC-34.8 RDW-15.5 Plt ___
___ 10:00AM BLOOD Neuts-86* Bands-0 Lymphs-6* Monos-5 Eos-3 
Baso-0 ___ Myelos-0
___ 07:20AM BLOOD Neuts-76.6* Lymphs-15.1* Monos-6.6 
Eos-1.5 Baso-0.3
___ 11:47AM BLOOD Neuts-83.6* Lymphs-9.4* Monos-5.1 Eos-1.4 
Baso-0.4
___ 10:00AM BLOOD Hypochr-1+ Anisocy-1+ Poiklo-NORMAL 
Macrocy-3+ Microcy-NORMAL Polychr-NORMAL
___ 10:00AM BLOOD Hb A-93.7 Hb S-0 Hb C-0 Hb A2-3.0 Hb 
F-0.3
___ 10:00AM BLOOD ___
___ 10:00AM BLOOD Ret Aut-4.1*
___ 09:20AM BLOOD Glucose-106* UreaN-11 Creat-0.8 Na-139 
K-4.6 Cl-102 HCO3-27 AnGap-15
___ 09:25AM BLOOD Glucose-118* UreaN-12 Creat-0.8 Na-139 
K-4.7 Cl-103 HCO3-27 AnGap-14
___ 07:20AM BLOOD Glucose-106* UreaN-12 Creat-0.7 Na-140 
K-4.5 Cl-104 HCO3-32 AnGap-9
___ 11:47AM BLOOD Glucose-136* UreaN-18 Creat-0.7 Na-137 
K-4.6 Cl-99 HCO3-29 AnGap-14
___ 10:00AM BLOOD ALT-26 AST-25 AlkPhos-75 TotBili-0.8
___ 09:20AM BLOOD TotProt-5.6* Calcium-8.8 Mg-2.3
___ 09:25AM BLOOD Calcium-8.4 Phos-2.8 Mg-2.3
___ 10:00AM BLOOD Albumin-3.1* Iron-39*
___ 09:25AM BLOOD VitB12-803
___ 10:00AM BLOOD calTIBC-160* Ferritn-414* TRF-123*
___ 10:00AM BLOOD TSH-2.3
___ 10:00AM BLOOD AFP-<1.0
___ 11:56AM BLOOD Lactate-1.7

___ FOREIGN BODY NOT PROCESSED   INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
INPATIENT 
___ URINE URINE CULTURE-FINAL INPATIENT 
___ SWAB GRAM STAIN-FINAL; WOUND CULTURE-FINAL 
{PSEUDOMONAS AERUGINOSA}; ANAEROBIC CULTURE-FINAL INPATIENT 
___ SWAB GRAM STAIN-FINAL; WOUND CULTURE-FINAL 
{MIXED BACTERIAL FLORA, PSEUDOMONAS AERUGINOSA}; ANAEROBIC 
CULTURE-FINAL {MIXED BACTERIAL FLORA} INPATIENT 
___ URINE URINE CULTURE-FINAL EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
EMERGENCY WARD 

 
Brief Hospital Course:
Mr. ___ presented to the emergency department with penile 
pain and swelling associated with his penile prosthesis 
(initially placed ___. He was admitted to Dr. ___ 
___ service and prepped for surgery with intravenous 
antibiotics. On hospital day two he underwent removal and 
replacement of his penile prosthesis on ___ secondary to 
infection now known to be pseudomonas. He tolerated the 
procedure well, was continued on intravenous antibiotics. On 
POD1 his pain persisted and given the pseudomonas infection, 
consult with the infectious disease team and hematology was 
obtained. Mr. ___ opted for removal of the replacement 
prosthesis, especially after consultation with the infectious 
disease service. Hematology weighed in and his hydroxyurea was 
held and he received two units of packed red blood cells. On 
___, he was taken back to the operating room theatre for 
explant of the prosthesis.  He tolerated this procedure well and 
was recovered in the PACU before transfer to the general 
surgical floor. Please see the respective dictated operative 
notes for full details. His post-operative course was 
unremarkable although he did require interventional radiology 
manipulation of his bedside placed PICC line. The PICC was 
determined functional and he was given continued on intravenous 
CEFEPIME at discharge with a course plan of about ___ weeks time 
with mandated follow up with outpatient infectious disease and 
hematology. 

On POD1 after his second procedure, his Foley catheter was 
removed and he was incontinent of urine. His wounds were clean 
and dry at discharge but his phallus and scrotum remained 
markedly edematous. He was discharged home POD2 after his second 
procedure with ___ Home infusion services and explicit 
instructions for follow up. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB, wheezing 
2. Citalopram 40 mg PO DAILY 
3. Hydroxyurea 1000 mg PO SUN, TUES, THURS, SAT 
4. Aspirin 81 mg PO DAILY 
5. Hydroxyurea 1500 mg PO ___, WEDNESDSAY, ___ 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB, wheezing 
2. Citalopram 40 mg PO DAILY 
3. Acetaminophen 1000 mg PO Q6H:PRN pain, fever 
4. OxycoDONE (Immediate Release)  ___ mg PO Q3H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth Q4hrs Disp #*40 Tablet 
Refills:*0
5. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
6. Sodium Chloride 0.9%  Flush 10 mL IV DAILY and PRN, line 
flush 
RX *sodium chloride 0.9 % [Normal Saline Flush] 0.9 % 10 mL IV 
Daily & PRN PICC LINE USE Disp #*60 Syringe Refills:*0
7. Senna 8.6 mg PO BID:PRN constipation 
8. Sarna Lotion 1 Appl TP QID:PRN pruritis 
9. Polyethylene Glycol 17 g PO DAILY:PRN Severe constipation 
10. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0
11. Heparin Flush (10 units/ml) 2 mL IV DAILY and PRN, line 
flush 
RX *heparin lock flush (porcine) [heparin lock flush] 10 unit/mL 
2 mL IV DAILY & PRN, line flush Disp #*5 Vial Refills:*0
12. Hydroxyurea 1000 mg PO SUN, TUES, THURS, SAT 
DO NOT RESUME without explicit instructions from Dr. ___. 
13. Hydroxyurea 1500 mg PO ___, ___, ___ 
DO NOT RESUME with explicit instructions from Dr. ___. 
14. CefePIME 2 g IV Q12H 
RX *cefepime [Maxipime] 2 gram 2 GM IV Q12hrs Disp #*42 Vial 
Refills:*0
15. Outpatient Lab Work
Follow up with ID as directed. It is VERY IMPORTANT that you 
return to ___ clinic or ED if fevers return, 
swelling/pain/erythema worsens or if you develop purulent (pus) 
drainage. 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Penoscrotal infection/Infected penile prosthesis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
DO NOT RIDE BIKES OF ANY SORT FOR AT LEAST 6 MONTHS OR UNTIL 
CLEARED BY FOLLOWUP BY ___ ___!

TAKE YOUR ANTIBIOTICS AS DIRECTED!!! DO NOT MISS DOSES.
-Follow up with ID and HEMATOLOGY as directed and scheduled. 

-It is VERY IMPORTANT that you return to ___ clinic or ED 
if fevers return, swelling/pain/erythema worsens or if you 
develop purulent (pus) drainage. 

-ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.

-___ keep your phallus/scrotum elevated to facilitate edema 
resolution. 

-Note that as the swelling/edema of your phallus and scrotum 
resolves, the skin may start to "flake" off and/or peel; this is 
a normal "healing" process. 

-Shower once to twice per day to keep genitals clean, dry. Avoid 
wound contamination with urine.

-Wear comfortable, loose fitting briefs or boxer-briefs for 
support--they should be cotton and/or breathable

-You may shower, but do NOT bathe, swim or otherwise immerse 
your incision.

-Do not lift anything heavier than a phone book and avoid 
sports, vigorous physical activity (including sexual) and do not 
drive. Avoid stools/hard chairs and bicycles.

-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthough pain >4.  
Replace Tylenol with narcotic pain medication.  Max daily 
Tylenol dose is 4gm, note that narcotic pain medication also 
contains Tylenol (acetaminophen)

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication, 
discontinue if loose stool or diarrhea develops.  Colace is a 
stool "softener"- it is NOT a laxative. Senokot is a gentle 
laxative that may be used to facilitate smooth bowel movements.

-Resume all of your home medications, except as noted.

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.
 
Followup Instructions:
___